US09260412B2
Preparation of 2-[5-cyclopropyl-1-(4-methoxybenzyl)-4-methyl-1H-pyrazol-3-yl]-5-methoxy-N-(pyridin-4-yl)pyrimidin-4-amine
1.03 g of 2-[5-cyclopropyl-1-(4-methoxybenzyl)-4-methyl-1H-pyrazol-3-yl]-5-methoxypyrimidin-4-amine (2.82 mmol, 1.00 eq.), 603 mg of 4-bromopyridine hydrochloride (1:1) (3.10 mmol, 1.10 eq.), 245 mg of (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (0.423 mmol, 0.15 eq.), 2.76 g of cesium carbonate (8.46 mmol, 3.00 eq.) and 63 mg of palladium diacetate (0.282 mmol, 0.1 eq.) were suspended in 10.8 mL of dry DMF and stirred under nitrogen atmosphere at 105° C. bath temperature for two hours. The reaction mixture was diluted with water and the crude product was extracted with DCM. The combined organic layers were dried over a silicon filter and concentrated in vacuo. The residue was purified by flash chromatography yielding 930 mg (1.95 mmol, 69%) of analytically pure target compound.

reactant | 2-[5-cyclopropyl-1-(4-methoxybenzyl)-4-methyl-1H-pyrazol-3-yl]-5-methoxypyrimidin-4-amine | 2.82 mmol, 1.03 g, 1.00 eq. | C1(CC1)C1=C(C(=NN1CC1=CC=C(C=C1)OC)C1=NC=C(C(=N1)N)OC)C | C20H23N5O2
reactant | 4-bromopyridine hydrochloride | 3.10 mmol, 603 mg, 1.10 eq. | Cl.BrC1=CC=NC=C1
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.423 mmol, 245 mg, 0.15 eq. | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 8.46 mmol, 2.76 g, 3.00 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10.8 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | palladium diacetate | 0.282 mmol, 63 mg, 0.1 eq. | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 2-[5-cyclopropyl-1-(4-methoxybenzyl)-4-methyl-1H-pyrazol-3-yl]-5-methoxy-N-(pyridin-4-yl)pyrimidin-4-amine | C1(CC1)C1=C(C(=NN1CC1=CC=C(C=C1)OC)C1=NC=C(C(=N1)NC1=CC=NC=C1)OC)C | C25H26N6O2
